* C:\users\tomkys144\Documents\CTU\b231\bsp\prednaska7.asc
VGS N002 0 1
M1 N001 N002 0 0 bs170
VDS N001 0 7.5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\tomkys144\AppData\Local\LTspice\lib\cmp\standard.mos
.lib BS170.lib
.dc VGS 0 10 1m
.backanno
.end
